US05684041
Step 4. 7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-nitro-benzothiophene
To a solution of 7-tert-butyl-2,3-dihydro-3,3-dimethylbenzothiophene (4.0 g, 18.2 mmol) in glacial acetic acid (30 mL) is added dropwise 70% HNO3 (2.0 mL, 2.8 g, 31.8 mmol). The reaction mixture darkens to a deep green color over the course of the addition. The reaction is monitored by TLC (2% EtOAc/hexanes). Then the reaction mixture is partitioned between Et2O (50 mL) and H2O (2×50 mL). The ethereal layer is washed with saturated aqueous Na2CO3 (50 mL), dried (MgSO4), filtered and evaporated to a red solid. Crystallization from hexane provides the title compound as orange prisms. A second crop yielded slightly less pure material which is combined with the former and used without further purification.

reactant | 7-tert-butyl-2,3-dihydro-3,3-dimethylbenzothiophene | 18.2 mmol, 4.0 g | C(C)(C)(C)C1=CC=CC=2C(CSC21)(C)C | C14H20S
reactant | HNO3 | 31.8 mmol, 2.0 mL, 2.8 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-nitro-benzothiophene | C(C)(C)(C)C1=CC(=CC=2C(CSC21)(C)C)[N+](=O)[O-] | C14H19NO2S
